US04482552
(i) 2-[2-Hydroxy-3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-isoindole-1,3-(2H)-dione
A mixture of 2-(oxiranylmethyl)-1H-isoindole-1,3-(2H)-dione (9.10 g) and 3-(1-piperidinylmethyl)phenol (8.55 g) was heated at 130° C. under nitrogen for 10 minutes. The resulting mixture was dissolved in chloroform (100 ml), washed with 1N sodium hydroxide (2×25 ml), dried (MgSO4) and evaporated to give the title compound as a gum (17.65 g).

reactant | 2-(oxiranylmethyl)-1H-isoindole-1,3-(2H)-dione | 9.10 g | O1C(C1)CN1C(C2=CC=CC=C2C1=O)=O | C11H9NO3
reactant | 3-(1-piperidinylmethyl)phenol | 8.55 g | N1(CCCCC1)CC=1C=C(C=CC1)O | C12H17NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-Hydroxy-3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-isoindole-1,3-(2H)-dione | 17.65 g | OC(CN1C(C2=CC=CC=C2C1=O)=O)COC1=CC(=CC=C1)CN1CCCCC1 | C23H26N2O4
